US07504397B2
(i) 4-(4-Bromo-thiophen-2-yl)-2-chloro-pyrimidine (67)
To a cooled (−78° C.) solution of 2,4-dibromothiophene (1 g, 4.13 mmol) in diethylether (30 ml) was added n-butyl lithium (2.5M in Hexanes, 4.55 mmol, 1.82 ml). The solution was maintained at this temperature for 1 hour before the addition of 2-chloropyrimidine (0.47 g, 4.13 mmol) in a single portion. The mixture was maintained at −78° C. for a further 1.5 hours before being allowed to warm up to room temperature. Ethyl acetate (20 ml) was added followed by DDQ (0.94 g, 4.13 mmol). The reaction was stirred for a further 30 minutes before being concentrated in vacuo. The crude residue was purified by flash chromatography (SiO2) (7:3—Hexanes:EtOAc) to give the desired product (0.42 g, 37%) as a pale yellow solid which corresponded to the title compound. m/z (LC-MSW, ESP):275 [M+H]+, R/T=4.72 mins.

reactant | 2,4-dibromothiophene | 4.13 mmol, 1 g | BrC=1SC=C(C1)Br | C4H2Br2S
reactant | n-butyl lithium | 4.55 mmol, 2.5M, 1.82 ml | C(CCC)[Li]
reactant | 2-chloropyrimidine | 4.13 mmol, 0.47 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | DDQ | 4.13 mmol, 0.94 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | diethylether | 30 ml | C(C)OCC | C4H10O
solvent | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-Bromo-thiophen-2-yl)-2-chloro-pyrimidine | 0.42 g, 37% | BrC=1C=C(SC1)C1=NC(=NC=C1)Cl | C8H4BrClN2S
